US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3-chloro-4-fluorophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 3-chloro-4-fluorophenylboronic acid (150 mg, 0.85 mmol) the subtitle compound was obtained (163 mg, 72%). 1H NMR (CDCl3) δ 8.74(d, 1H), 8.45(dd, 1H), 7.87(d, 1H), 7.64(m, 2H), 7.52(dd, 1H), 7.49–7.44(m, 1H), 7.28–7.21(m, 2H), 4.08(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 3-chloro-4-fluorophenylboronic acid | 0.85 mmol, 150 mg | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3-chloro-4-fluorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)F)Cl | C20H12ClFN2O4
